### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): the Erdős-Kaplansky theorem

### PR DESCRIPTION
**Pull request by alreadydone**
The dimension of an infinite dimensional dual space is equal to its cardinality. As a consequence (`linearEquiv_dual_iff_finiteDimensional`), a vector space is isomorphic to its dual iff it's finite dimensional.

The [main argument](https://github.com/leanprover-community/mathlib4/pull/9159/files#diff-cb173017e1157ddc4b9f868be06c18ec2a38f8cf82e856e18d59ed49f97395d8R146) is from https://mathoverflow.net/a/168624. There is a [slicker proof](https://mathoverflow.net/a/420455/3332) in the field case but Vandermonde determinants don't work in a non-commutative ring.

Resolves [TODO item](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dual.html#TODO) posed by Julian Külshammer

- [x] depends on: #8941
- [x] depends on: #8942

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean [hunk 1]
```diff
@@ -123,3 +137,109 @@ theorem rank_tensorProduct' (N : Type v) [AddCommGroup N] [Module R N] [Module.F
 #align rank_tensor_product' rank_tensorProduct'
 
 end CommRing
+
+section DivisionRing
+
+variable (K : Type u) [DivisionRing K]
+
+/-- Key lemma towards the Erdős-Kaplansky theorem from https://mathoverflow.net/a/168624 -/
+theorem rank_pi_nat : max ℵ₀ #K ≤ Module.rank K (ℕ → K) := by
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/Rank.lean:146]: since it only proves one inequality, shouldn't it be called le_rank_pi_nat or something like that?

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean [hunk 2]
```diff
@@ -123,3 +137,109 @@ theorem rank_tensorProduct' (N : Type v) [AddCommGroup N] [Module R N] [Module.F
...
+    exact (nat_lt_aleph0 _).not_le this
+  obtain ⟨t, g, eq0, i, hi, hgi⟩ := not_linearIndependent_iff.mp this
+  refine hgi (linearIndependent_iff'.mp (bL.linearIndependent.comp e e.injective) t g ?_ i hi)
+  clear_value c s
+  simp_rw [← rep_e, Finset.sum_apply, Pi.smul_apply, Finset.smul_sum]
+  rw [Finset.sum_comm]
+  refine Finset.sum_eq_zero fun i hi ↦ ?_
+  replace eq0 := congr_arg L.subtype (congr_fun eq0 ⟨i, hi⟩)
+  rw [Finset.sum_apply, map_sum] at eq0
+  have : SMulCommClass Lᵐᵒᵖ K K := ⟨fun _ _ _ ↦ mul_assoc _ _ _⟩
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/Rank.lean:188]: Shouldn't this SMulCommClass exist somewhere in mathlib? either as an instance, or at least
as something that can be invoked right away?

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean [hunk 3]
```diff
@@ -123,3 +137,109 @@ theorem rank_tensorProduct' (N : Type v) [AddCommGroup N] [Module R N] [Module.F
...
+/-- The **Erdős-Kaplansky Theorem** over a field. -/
+theorem rank_dual_eq_card_of_aleph0_le_rank {K V : Type*} [Field K] [AddCommGroup V] [Module K V]
+    (h : ℵ₀ ≤ Module.rank K V) : Module.rank K (V →ₗ[K] K) = #(V →ₗ[K] K) := by
+  obtain ⟨⟨ι, b⟩⟩ := Module.Free.exists_basis (R := K) (M := V)
+  rw [rank_eq_cardinal_basis' b, aleph0_le_mk_iff] at h
+  have e := (b.constr K (M' := K)).symm
+  rw [e.rank_eq, e.toEquiv.cardinal_eq]
+  apply rank_pi_infinite
+
+theorem lift_rank_lt_rank_dual' {V : Type v} [AddCommGroup V] [Module K V]
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/Rank.lean:229]: (untested) can this theorem be proved as a lt_of_le_of_lt from a general lift_le type lemma, and the Erdös-Kaplansky?

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/FreeModule/Rank.lean:146]: I think so. Let me change the name to `max_aleph0_mk_le_rank_function_nat` (I realized the non-dependent function type is called `function` in mathlib more often than `pi`).

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/FreeModule/Rank.lean:188]: The action of `Lᵐᵒᵖ` on `K` is itself obtained manually earlier in the proof rather than automatically:
```
letI := Module.compHom K (RingHom.op L.subtype)
```
So we can't expect Lean to know about the SMulCommClass here. I think mathlib currently lack actions by MulOpposite of subobjects and it feels like a big project to add them all, although actions by subobjects of MulOpposite should already be obtainable via typeclass inference, but we seem to be lacking a Subring analogue of [Subgroup.op](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Subgroup/MulOpposite.html#Subgroup.op).

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/FreeModule/Rank.lean:229]: I'm not sure what you have in mind? The main content of this proof is that any field K is Nontrivial, so `r < 2^r ≤ #(K^r)` (where `r = Module.rank K V`).

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean [hunk 4]
```diff
@@ -123,3 +137,109 @@ theorem rank_tensorProduct' (N : Type v) [AddCommGroup N] [Module R N] [Module.F
...
+    (h : ℵ₀ ≤ Module.rank K V) :
+    Cardinal.lift.{u} (Module.rank K V) < Module.rank Kᵐᵒᵖ (V →ₗ[K] K) := by
+  obtain ⟨⟨ι, b⟩⟩ := Module.Free.exists_basis (R := K) (M := V)
+  rw [rank_eq_cardinal_basis' b, rank_dual_eq_card_dual_of_aleph0_le_rank' h,
+      ← (b.constr ℕ (M' := K)).toEquiv.cardinal_eq, mk_arrow]
+  apply cantor'
+  erw [nat_lt_lift_iff, one_lt_iff_nontrivial]
+  infer_instance
+
+theorem lift_rank_lt_rank_dual {K : Type u} {V : Type v} [Field K] [AddCommGroup V] [Module K V]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/FreeModule/Rank.lean:239]: Should we have versions of these last two results in the equi-universic setting, that avoid the `Cardinal.lift`?
Maybe they should have a `'` in their name, and the results should come with docstrings that cross-ref each other.

**Review by jcommelin — APPROVED** [review]
LGTM, one minor comment.

bors d+

File: Mathlib/LinearAlgebra/FreeModule/Rank.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/FreeModule/Rank.lean:243]: Certainly! No need of `'`, just remove `lift` from the names. (I use `'` for the division ring version and no `'` for the field version in this PR.)
